US08859580B2
3-(Benzothiazole-6-carbonyl)-8-hydroxy-2,3,4,5-tetrahydro-1H-2,6-methano-benzo[d]azocine-6-carbonitrile
Trifluoroacetic anhydride (43 μL) is added to a solution of 3-(benzothiazole-6-carbonyl)-8-hydroxy-2,3,4,5-tetrahydro-1H-2,6-methano-benzo[d]azocine-6-carboxylic acid amide (40 mg) and ethyldiisopropylamine (50 μL) in dichloromethane (0.5 mL) chilled in an ice bath. The ice bath is removed and the solution is stirred at ambient temperature for 4 h. Then, another portion of trifluoroacetic anhydride (43 μL) and ethyldiisopropylamine (50 μL) are added and the solution is stirred overnight. Methanol (1 mL) is added and the solution is stirred for another 10 min. The solution is concentrated under reduced pressure and the residue is purified by HPLC on reversed phase (water/MeCN) to give the title compound.

reactant | Trifluoroacetic anhydride | 43 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-(benzothiazole-6-carbonyl)-8-hydroxy-2,3,4,5-tetrahydro-1H-2,6-methano-benzo[d]azocine-6-carboxylic acid amide | 40 mg | S1C=NC2=C1C=C(C=C2)C(=O)N2C1CC3=C(C(CC2)(C1)C(=O)N)C=C(C=C3)O | C21H19N3O3S
reactant | ethyldiisopropylamine | 50 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 3-(Benzothiazole-6-carbonyl)-8-hydroxy-2,3,4,5-tetrahydro-1H-2,6-methano-benzo[d]azocine-6-carbonitrile | S1C=NC2=C1C=C(C=C2)C(=O)N2C1CC3=C(C(CC2)(C1)C#N)C=C(C=C3)O | C21H17N3O2S
